US07371772B2
To a suspension of 5-(4-bromo-2-formyl-N-propylanilino)pentanoic acid (8.00 g) and potassium carbonate (3.88 g) in DMF (25 ml) was added dropwise a solution of iodomethane (4.66 g) in DMF (5 ml) under a nitrogen atmosphere. The mixture was stirred overnight under a nitrogen atmosphere. Then, water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated saline and dried over magnesium sulfate. The solvent was distilled off under reduced pressure to obtain brown oil of methyl 5-(4-bromo-2-formyl-N-propylanilino)pentanoate (7.89 g).

reactant | 5-(4-bromo-2-formyl-N-propylanilino)pentanoic acid | 8.00 g | BrC1=CC(=C(N(CCC)CCCCC(=O)O)C=C1)C=O | C15H20BrNO3
reactant | potassium carbonate | 3.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 4.66 g | IC | CH3I
reactant | water | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | methyl 5-(4-bromo-2-formyl-N-propylanilino)pentanoate | 7.89 g | BrC1=CC(=C(N(CCC)CCCCC(=O)OC)C=C1)C=O | C16H22BrNO3
